US04797399
Methyl chloroacetate (9.6 g) and potassium carbonate (11.1 g) were added to a solution of 6-chloro-2-oxo-1,2-dihydrothiazolo[5.4-b]pyridine (15.0 g ) in dry N,N-dimethylformamide (50 ml). The mixture was stirred for 30 minutes at 80° C. and then poured into cold water. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide to give white powder of 6-chloro-1-methoxycarbonylmethyl-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine (20.52 g).

reactant | Methyl chloroacetate | 9.6 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium carbonate | 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-2-oxo-1,2-dihydrothiazolo[5.4-b]pyridine | 15.0 g | ClC=1C=C2C(=NC1)SC(N2)=O | C6H3ClN2OS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-chloro-1-methoxycarbonylmethyl-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine | 20.52 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)OC)=O | C9H7ClN2O3S
